US07202093B2
2-Acetoxymethyl-4-nitropyridine
200 mL of acetic anhydride was heated to 100° C., followed by gradual addition of 2-methyl-4-nitropyridine N-oxide (25.0 g, 162 mmol). After the addition, the mixture was gradually heated, and was kept at 130° C. for 20 minutes. Then, the reaction mixture was cooled to 80° C., followed by dropwise addition of 200 mL of ethanol to stop the reaction.

reactant | acetic anhydride | 200 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methyl-4-nitropyridine N-oxide | 162 mmol, 25.0 g | CC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C6H6N2O3
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-Acetoxymethyl-4-nitropyridine | C(C)(=O)OCC1=NC=CC(=C1)[N+](=O)[O-] | C8H8N2O4
